US07196085B2
O-Benzotriazol-1-yl-N,N,N′N′-tetramethyluronium tetrafluoroborate (0.14 g, 0.44 mmol) and diisopropylethylamine (0.097 g, 0.44 mmol) were added sequentially at ambient temperature to a stirred solution of 2-benzyl-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid (0.156 g, 0.34 mmol) in dimethylformamide (2 ml), the mixture was stirred at ambient temperature for 3 hours, then it was added dropwise to ice-cold water (10 ml). The mixture was stirred for 30 minutes, then the resulting solid was collected by filtration, washed with water (5 ml) and dried in vacuo to give 3-benzyl-1-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]pyrrolidine-2,5-dione (0.120 g) as a white solid, 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 2.6–3.4 (m 5H) (—CH2CH(CO2H)CH2Ph), 4.5 (s, 2H) (ArCH2—), 7.3–7.6 (m, 7H) (7×ArH), 7.6–7.7 (m, 1H) (ArH), 7.9–8.2 (m, 3H) (3×ArH), 8.4 (m, 1H) (ArH), 12.8 (br s, 1H) (CONH); m/z (M+H)+ 442, 96.8% purity.

reactant | diisopropylethylamine | 0.44 mmol, 0.097 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-benzyl-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid | 0.34 mmol, 0.156 g | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)NC1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F | C26H22FN3O4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-benzyl-1-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]pyrrolidine-2,5-dione | 0.120 g | C(C1=CC=CC=C1)C1C(N(C(C1)=O)C1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F)=O | C26H20FN3O3
